US04009208
40. N,N'-(Dithiodiethylene)bis(4-trifluoromethoxybenzamide),
m.p. 150°-151° C., 14.5 g., was prepared as in Example 1 using 33.6 g. of 4-trifluoromethoxybenzoyl chloride in 100 ml. of ethylene dichloride, 11.3 g. of cystamine dihydrochloride, 300 ml. of 10% sodium hydroxide solution, 400 ml. of ethylene dichloride and recrystallization from acetonitrile using decolorizing charcoal.

reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | cystamine dihydrochloride | Cl.Cl.NCCSSCCN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-(Dithiodiethylene)bis(4-trifluoromethoxybenzamide) | C(CNC(C1=CC=C(C=C1)OC(F)(F)F)=O)SSCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O | C20H18F6N2O4S2
